US08426402B2
tert-Butyl 2-(4-(2,5-dioxo-2,5-dihydro-1H-pyrrol-1-yl)butanoyl)hydrazinecarboxylate (245)
4-Maleimidobutyric acid (245 mg, 1.33 mmol), tert-butyl hydrazinecarboxylate (201 mg, 1.52 mmol) and EDC (400 mg, 2.08 mmol) in 5 ml of CH2Cl2, were stirred overnight under Ar, washed with 1 M NaH2PO4,/NaCl (conc), dried over MgSO4, filtered, evaporated and purified on SiO2 chromatography eluted with MeOH/DCM (1:25) to afford 335 mg (85%) of the title compound. 1H NMR (CDCl3), 7.83 (br, 1H), 6.65 (s, 2H), 6.50 (br, 1H), 3.58 (t, 2H, J=6.3 Hz), 2.15 (t, 2H, J=7.0 Hz), 1.90 (dt, 2H, J=6.8, 13.4 Hz), 1.40 (s, 9H); 13C NMR 171.30, 155.61, 134.41, 82.00, 37.13, 31.38, 28.36, 24.95; MS m/z+ 320.2 (M+Na).

reactant | 4-Maleimidobutyric acid | 1.33 mmol, 245 mg | C1(C=CC(N1CCCC(=O)O)=O)=O | C8H9NO4
reactant | tert-butyl hydrazinecarboxylate | 1.52 mmol, 201 mg | N(N)C(=O)OC(C)(C)C | C5H12N2O2
reactant | EDC | 2.08 mmol, 400 mg
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
product | tert-Butyl 2-(4-(2,5-dioxo-2,5-dihydro-1H-pyrrol-1-yl)butanoyl)hydrazinecarboxylate | 335 mg, 85% | O=C1N(C(C=C1)=O)CCCC(=O)NNC(=O)OC(C)(C)C | C13H19N3O5
